US05648354
To a stirred solution of 3-(hydroxymethyl)-6-[(tert-butyldimethylsilyloxy)methyl]-1,2-dithiin (U.S. Ser. No. 08/212,096) (200 mg, 0.69 mmol) in 5 mL dry THF was added a solution of 2-(trifluoromethyl)phenol (223 mg, 1.37 mmol) in 5 mL THF, followed by addition of triphenylphosphine (234 mg, 0.89 mmol) The resulting solution was cooled to 0° C., then 140 μL (156 mg, 0.89 mmol) of diethylazodicarboxylate was added, and the reaction mixture was kept at 0°-5° C. until TLC analysis showed the reaction to be complete. For isolation of the products, the reaction mixture poured directly onto a silica gel column using ethyl acetate-hexane, 1:3, to provide 110 mg (37%) of 3-[(tert-butyldimethylsilyloxy)methyl]-6-[(2-trifluoromethylphenyloxy)methyl]-1,2-dithiin; 1H NMR (CDCl3):δ7.56 (d, J=8.0, 1 H), 7.45 (t, J=8.0, 1 H), 7.01 (m, 2 H), 6.49 S (d, J=6.0 Hz, 1 H), 6.37 (d, J=6.0 Hz, 1 H), 4.71 (s, 2 H), 4.26 (s, 2 H), 0.88 (s, 9 H), 0.07 (s, 6 H); 13C NMR (CDCl3):δquaternary carbons missing, 136.19, 133.24, 127.23, 123.57, 120.81, 113.15, 69.58, 64.85, 25.79, 18.34, -5.38; MS (LSIMS) (M+) 434.1.

reactant | 3-(hydroxymethyl)-6-[(tert-butyldimethylsilyloxy)methyl]-1,2-dithiin | OCC=1SSC(=CC1)CO[Si](C)(C)C(C)(C)C | C12H22O2S2Si
reactant | 2-(trifluoromethyl)phenol | 1.37 mmol, 223 mg | FC(C1=C(C=CC=C1)O)(F)F | C7H5F3O
reactant | triphenylphosphine | 0.89 mmol, 234 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.89 mmol, 140 μL, 156 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-[(tert-butyldimethylsilyloxy)methyl]-6-[(2-trifluoromethylphenyloxy)methyl]-1,2-dithiin | 110 mg, 37% | [Si](C)(C)(C(C)(C)C)OCC=1SSC(=CC1)COC1=C(C=CC=C1)C(F)(F)F | C19H25F3O2S2Si
